US07375102B2
Compound I1, a mixture of 4-(5,5-dimethyl-cyclohex-1-enyl)-morpholine/4-(3,3-Dimethyl-cyclohex-1-enyl)-morpholine (3:1), (1.28 g, 6.55 mmol.) and 4-ethoxyphenyl isocyanate (1.20 g, 7.20 mmol.) in 32 mL of chloroform was stirred at room temperature for 20 h. Upon completion, 50 mL of dichloromethane was added and the resulting solution was washed with water twice and brine, dried over anhydrous sodium sulfate and concentrated. There was obtained 2.04 g of I2, which was used in next step without purification. MS (ESI+) 290 [M+H]+.

reactant | 4-(5,5-dimethyl-cyclohex-1-enyl)-morpholine 4-(3,3-Dimethyl-cyclohex-1-enyl)-morpholine | CC1(CCC=C(C1)N1CCOCC1)C.CC1(C=C(CCC1)N1CCOCC1)C | 2C12H21NO
reactant | 4-ethoxyphenyl isocyanate | 7.20 mmol, 1.20 g | C(C)OC1=CC=C(C=C1)N=C=O | C9H9NO2
reactant | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | chloroform | 32 mL | C(Cl)(Cl)Cl | CHCl3
product | 4,4-Dimethyl-2-oxo-cyclohexanecarboxylic acid (4-ethoxy-phenyl) amide | 2.04 g | C(C)OC1=CC=C(C=C1)NC(=O)C1C(CC(CC1)(C)C)=O | C17H23NO3
